US04735952
4-[[7-(Trifluoromethyl)-4-quinolyl]amino]benzoyl chloride hydrochloride (14.7 g) was added slowly to a stirred mixture of 4-[(4-fluorophenyl)sulfinyl]piperidine hydrochloride (10.0 g) and triethylamine (26.4 ml) in dry methylene chloride (440 ml) at room temperature. The resultant mixture was stirred at the same temperature for 3 hours, and concentrated to dryness in vacuo. Water was added to the residue and the precipitated powder was collected by filtration, washed with water, and dried to give a powder. The powder was washed with methylene chloride to give 4-[(4-fluorophenyl)sulfinyl]-1-[4-[[7-(trifluoromethyl)-4-quinolyl]amino]benzoyl]piperidine (13.60 g) as colourless powder.

reactant | 4-[[7-(Trifluoromethyl)-4-quinolyl]amino]benzoyl chloride hydrochloride | 14.7 g | Cl.FC(C1=CC=C2C(=CC=NC2=C1)NC1=CC=C(C(=O)Cl)C=C1)(F)F
reactant | 4-[(4-fluorophenyl)sulfinyl]piperidine hydrochloride | 10.0 g | Cl.FC1=CC=C(C=C1)S(=O)C1CCNCC1
reactant | triethylamine | 26.4 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 440 ml | C(Cl)Cl | CH2Cl2
product | 4-[(4-fluorophenyl)sulfinyl]-1-[4-[[7-(trifluoromethyl)-4-quinolyl]amino]benzoyl]piperidine | 13.60 g | FC1=CC=C(C=C1)S(=O)C1CCN(CC1)C(C1=CC=C(C=C1)NC1=CC=NC2=CC(=CC=C12)C(F)(F)F)=O | C28H23F4N3O2S
